US05266713
Preparation of 3-Chloro-2,2-dimethylpropanoylglycine
By the method of M. Shimazaki, et al., Chem. Pharm. Bull., 30(9), 3139-3146 (1982), 2.27 g glycine in a solution of 31 mL of 2 M sodium hydroxide was stirred with commercially available chloropivaloyl chloride (4.65 g) in 5 mL ether. After one hour at 0° C., the reaction mixture was warmed to ambient temperature, acidified (pH 2) with sulfuric acid and saturated with sodium chloride. After extraction with 3×30 mL ethyl acetate, the extracts were dried (MgSO4) and evaporated in vacuo to give 3.0 g of the title compound as a white solid. This material was used as obtained in the following transformation.

reactant | glycine | 2.27 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 2 M, 31 mL | [OH-].[Na+]
reactant | chloropivaloyl chloride | 4.65 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
solvent | ether | 5 mL | CCOCC | C4H10O
product | 3-Chloro-2,2-dimethylpropanoylglycine | 3.0 g | ClCC(C(=O)NCC(=O)O)(C)C | C7H12ClNO3
